US05272147
5-Acetyl-2-ethoxybenzoic acid
A mixture of 5-acetyl-2-ethoxybenzoic acid methyl ester (9.6 g, 0.043 mol), 5M aqueous sodium hydroxide solution (44 ml, 0.217 mol), water (80 ml) and 1,4-dioxan (80 ml) was stirred at room temperature for 18 hours. The solvent was removed by evaporation under vacuum, the residue dissolved in water (100 ml) and the resulting solution acidified to pH 1with concentrated hydrochloric acid. The aqueous mixture was extracted with ethyl acetate (4×100 ml) and the combined extracts dried (Na2SO4) and evaporated under vacuum. The resulting solid was crystallised form ethyl acetate to give the title compound as a colourless solid (5.4 g, 60%), m.p. 122°-125° C. Found: C,63.20; H,5.81. C11H12O4 requires C,63.45; H,5.81%.

reactant | 5-acetyl-2-ethoxybenzoic acid methyl ester | 0.043 mol, 9.6 g | COC(C1=C(C=CC(=C1)C(C)=O)OCC)=O | C12H14O4
reactant | sodium hydroxide | 0.217 mol, 5M, 44 ml | [OH-].[Na+]
reactant | water | 80 ml | O | H2O
solvent | 1,4-dioxan | 80 ml | O1CCOCC1 | C4H8O2
product | 5-Acetyl-2-ethoxybenzoic acid | 5.4 g, 60% | C(C)(=O)C=1C=CC(=C(C(=O)O)C1)OCC | C11H12O4
